US06037367
Preparation of (+/-)-n-Propyl-3-(3-Cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionate
A solution of (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid (200 mg, 0.55 mmol) in n-propanol (15 ml) and conc. H2SO4 (1 drop) was heated at 95° for 5 hr. The solvents were evaporated, the residue taken up in Et2O, washed with H2O, aqueous K2CO3, dried and the solvent evaporated. The residue was purified by flash chromatography (alumina, neutral, activity 1, Et2O), and gave the titled compound as an oil, 125 mg (56%). 1H NMR (400 MHz, CDCl3) δ 7.40 (m, 2 H), 7.28 (m, 3 H), 6.98 (m, 2 H), 6.84 (d, 1 H), 4.80 (m, 1 H), 4.36 (t, 1 H), 4.06 (t, 2 H), 3.82 (s, 3 H), 2.90 (d of d, 1 H), 2.78 (d of d, 1 H), 1.78-1.96 (m, 6 H), 1.64 (m, 4 H), 0.90 (t, 3 H).

reactant | (+/-)-3-(3-cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionic acid | 0.55 mmol, 200 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC(=O)O)C#CC1=CC=CC=C1 | C23H24O4
reactant | n-propanol | 15 ml | C(CC)O | C3H8O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | (+/-)-n-Propyl-3-(3-Cyclopentyloxy-4-methoxyphenyl)-3-phenylethynylpropionate | C(CC)OC(CC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C26H30O4
